US06417388B1
Preparation of 5-methylhex-5-ene-2,3-dione 3-(O-ethyloxime)-2-oxime
By the method of Example 4, 211.3 g of hydroxylammonium chloride in 400 ml of water and 240 g of pyridine were reacted with 342.4 g of 5-methylhex-5-ene-2,3-dione 3-(O-ethyloxime) in 800 ml of methanol. This gave 305 g of the title compound as a yellowish solid.

reactant | hydroxylammonium chloride | 211.3 g | [Cl-].O[NH3+]
reactant | pyridine | 240 g | N1=CC=CC=C1 | C5H5N
reactant | 5-methylhex-5-ene-2,3-dione 3-(O-ethyloxime) | 342.4 g | C(C)ON=C(C(C)=O)CC(=C)C | C9H15NO2
solvent | water | 400 ml | O | H2O
solvent | methanol | 800 ml | CO | CH4O
product | 5-methylhex-5-ene-2,3-dione 3-(O-ethyloxime)-2-oxime | 305 g | C(C)ON=C(C(C)=NO)CC(=C)C | C9H16N2O2
